US06326386B1
{3-Bromo-5-[2-(pyridin-4-ylamino)-ethoxy]-phenyl}-methanol
A stiired solution of 2-(5-bromo-3-methoxycarbonyl-phenoxy)-N-pyridin-4-yl-acetamide (6.61 g) in anhydrous tetrahydrofuran (200 ml) was treated with a 1M diethyl ether solution of lithium aluminium hydride (56.1 ml) over a period of 20 min. A brown precipitate appeared and the mixture was stirred at room temperature for 6 h. The reaction mixture was treated with water (2 ml) 1M sodium hydroxide solution (2 ml), water (6 ml) and then with 2M hydrochloric acid (150 ml). The reaction mixture was extracted with ethyl acetate and then basified with 2M sodium hydroxide solution. The reaction mixture was reextracted with ethyl acetate. The first organic phase was washed with saturated aqueous sodium bicarbonate and combined with the second organic phase. The combined organic phase was washed with water and dried with brine and over sodium sulphate. Concentration of the organic phase gave a gum which was found to be unsatisfactory so the gum was partitioned between ethyl acetate and 2M hydrochloric acid. The aqueous layer was separated, basified to pH 10 and extracted with ethyl acetate. The organic phase was washed with water and dried with brine and over sodium sulphate. Concentration under reduced pressure gave the title compound as an off-white solid (1.5 g).

reactant | 2-(5-bromo-3-methoxycarbonyl-phenoxy)-N-pyridin-4-yl-acetamide | 6.61 g | BrC=1C=C(C=C(OCC(=O)NC2=CC=NC=C2)C1)C(=O)OC | C15H13BrN2O4
reactant | diethyl ether | 1M | C(C)OCC | C4H10O
reactant | lithium aluminium hydride | 56.1 ml | [H-].[Al+3].[Li+].[H-].[H-].[H-]
reactant | hydrochloric acid | 2M, 150 ml | Cl | ClH
solvent | tetrahydrofuran | 200 ml | O1CCCC1 | C4H8O
solvent | water | 6 ml | O | H2O
solvent | water | 1M, 2 ml | O | H2O
product | {3-Bromo-5-[2-(pyridin-4-ylamino)-ethoxy]-phenyl}-methanol | 1.5 g | BrC=1C=C(C=C(C1)OCCNC1=CC=NC=C1)CO | C14H15BrN2O2
